US09108983B2
Step A: Ethyl 4,4-diethoxy-3-oxo-butanoate
To a solution of 40 g of ethyl diethoxyacetate (227 mmol) in 67 mL of ethyl acetate there are added under argon, in portions, 6 g of sodium (261 mmol). The reaction mixture is then stirred at ambient temperature for 48 hours. There are added 10 mL of methanol, and then the mixture is hydrolysed with 65 mL of water. The pH of the reaction mixture is adjusted to pH 6 by adding 1N aqueous HCl solution. The mixture is separated and then extracted with ethyl acetate. The organic phases are combined, washed with brine, dried over MgSO4, filtered and concentrated to dryness. The title product is obtained in the form of an oil which is used in the next Step without being otherwise purified.

reactant | ethyl diethoxyacetate | 227 mmol, 40 g | C(C)OC(C(=O)OCC)OCC | C8H16O4
reactant | sodium | 261 mmol, 6 g | [Na] | Na
reactant | methanol | 10 mL | CO | CH4O
reactant | HCl | 1N | Cl | ClH
reactant | ethyl acetate | 67 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 65 mL | O | H2O
product | Ethyl 4,4-diethoxy-3-oxo-butanoate | C(C)OC(C(CC(=O)OCC)=O)OCC | C10H18O5
